data/oMe_Silver.jsonl
{"reaction_id": "NR-129_1-C1CCCCC1_2-C","name": "Kumada-Corriu Coupling","level": "medium","reactants_smiles": ["C1CCCCC1Br","C[Mg]Br"],"products_smiles": ["C1CCCCC1C"],"conditions": "[Pd]","mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Pd](C1CCCCC1)Br","rationale": "Pd(0) undergoes oxidative addition into the C–Br bond due to the bond’s polarization and good leaving group ability of Br⁻, forming a Pd(II) complex stabilized by coordination to C1CCCCC1."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[Pd](C1CCCCC1)C","rationale": "The nucleophilic C–MgBr transfers C to Pd via transmetalation, driven by the strong Mg–Br affinity and the increased electrophilicity of Pd(II) from electron-withdrawing Br."},{"step": 3,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "C1CCCCC1C","rationale": "Reductive elimination from Pd(II) is favored as it forms a stable C–C bond between C1CCCCC1 and C, regenerating Pd(0) and completing the catalytic cycle."}],"description": "In the Kumada-Corriu coupling, a Pd catalyst mediates the cross-coupling of an organohalide with a Grignard reagent. Oxidative addition activates the aryl halide, transmetalation introduces the nucleophilic partner, and reductive elimination forms the C–C bond, regenerating the catalyst."}
{"reaction_id": "NR-203_1-C(C)(C)C_2-c1ccc2ccccc2c1","level": "medium","name": "Nef Reaction","reactants_smiles": ["C(C(C)(C)C)(c1ccc2ccccc2c1)([N+](=O)[O-])"],"products_smiles": ["O=C(C(C)(C)C)(c1ccc2ccccc2c1)"],"conditions": "H3O+","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(c1ccc2ccccc2c1)=N([O-])=O","step_weight": 0,"rationale": "Protonation of the nitro group oxygen increases electrophilicity of nitrogen, facilitating tautomerization to the nitronic acid form under acidic conditions."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(c1ccc2ccccc2c1)=[N+]([O-])O","step_weight": 0,"rationale": "Further proton transfer stabilizes the nitronic acid tautomer by delocalizing positive charge onto nitrogen, making it more susceptible to nucleophilic attack."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(c1ccc2ccccc2c1)=[N+](O)O","step_weight": 0,"rationale": "Protonation of the hydroxyl oxygen enhances the leaving ability of water in later steps and increases the electrophilicity of the nitrogen center."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(C)(C)C)(c1ccc2ccccc2c1)([NH+](O)O)[OH2+]","step_weight": 0,"rationale": "Water, abundant in acidic medium, attacks the electrophilic nitrogen-carbon center, driven by the positive charge and resonance stabilization of the intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(c1ccc2ccccc2c1)([NH+](O)O)[OH]","step_weight": 0,"rationale": "Proton transfer from the coordinated water to the nitronic hydroxyl group prepares for elimination by generating a better leaving group."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[OH+]=C(C(C)(C)C)(c1ccc2ccccc2c1)","step_weight": 0,"rationale": "Elimination of the protonated hydroxylamine fragment occurs because water is a good leaving group under acidic conditions, forming an oxonium ion intermediate."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(C(C)(C)C)(c1ccc2ccccc2c1)","step_weight": 0,"rationale": "Loss of a proton from the oxonium ion yields the neutral carbonyl product, driven by the thermodynamic stability of the C=O bond."}],"description": "Under acidic conditions, the nitro group of the nitroalkane is sequentially protonated and rearranged to form a nitronic acid, which undergoes hydration and elimination steps. Proton transfers and good leaving group formation drive the conversion to the corresponding carbonyl compound."}
